Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish (in past, shrimp)
 
Attending: ___.
 
Chief Complaint:
Diabetic foot infection
 
Major Surgical or Invasive Procedure:
Status post right lower extremity angiogram with POBA and DES x1 
to the anterior tibial artery

 
History of Present Illness:
___ with history of CAD s/p CABG (___ ___, HFpEF (LVEF >55%
in ___, HTN, IDDM2 c/b neuropathy and nephropathy/CKD, OSA,
PAD, recent admission for MSSA bacteremia and LLE osteomyelitis,
and multiple diabetic foot ulcers of the RLE who presents from
___ clinic with concern for diabetic foot infection.

Patient sees podiatry for weekly dressing changes and
debridements. Over the last 4 days, he has had worsening
drainage, erythema, and pain of the ulcers on the heel and sole
of his right foot, associated with foul odor. He was seen in
___ clinic on the day of admission, where they removed an
apligraft that did not take, debrided the ulcers, and 
recommended
he come to the ED for IV antibiotics.

Of note, patient was hospitalized at ___ for MSSA bacteremia 
in
___. During that admission, he was found to have septic
arthritis of the right elbow as well as infection of the right
foot. He was ultimately discharged with an 8-week course of
cefazolin for bacteremia and followed up with OPAT. He has not
been on antibiotics since. In ___, he was also treated for a
non-healing left ___ toe amputation site that grew out MRSA,
morganella, and aeromonas.

In the ED, initial vitals were notable for T 98.1, HR 72, BP
133/53, RR 16, SpO2 100% on RA. Labs notable for WBC 6.3, Hgb
10.8 (MCV 82), platelets 103, Cr 1.9, lactate 2.1, CRP 47.1. XR
of the R foot demonstrated soft tissue ulceration within the
plantar soft tissues at the level of the MTP joint and posterior
heel without evidence for osteomyelitis or soft tissue gas.
Patient was given PO ciprofloxacin 500 mg, PO metronidazole 500
mg, IV Vancomycin 1500 mg, insulin, and IVF 1L NS.

Vitals prior to transfer were T 98.1, HR 65 BP 117/45, RR 16,
SpO2 98% on RA. Upon arrival to the floor, the patient denies
recent trauma to the RLE. Denies fevers/chills, N/V, CP, SOB,
abdominal pain, bowel or bladder symptoms, new paresthesias of
the extremities. He reports some non-adherence to his insulin
although says his FSBG checks have been <200 over the past few
weeks.
 
Past Medical History:
IDDM2 - followed by Dr. ___ at ___, last HbA1c 8.6% on
___
CAD s/p CABG (___ ___, HTH
IDDM2 complicated by nephropathy/CKD
OSA on home CPAP
Obesity
PVD with history of osteomyelitis and amputations in the ___

 
Social History:
___
Family History:
Mother with CHF, father died from cancer unknown primary at age 
___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Alert and interactive, in no acute distress.
HEENT: NCAT, PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Distant heart sounds, RRR, S1, S2, no
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Soft, non-distended, non-tender to deep palpation in 
all
four quadrants. No organomegaly.
EXTREMITIES: 1+ pitting edema of the lower extremities
bilaterally from the shins distally. Amputation site of first 
and
second toes of the LLE c/d/i, no TTP.
SKIN: 3 ulcers of the RLE: heel ulcer is full-thickness with
erythema around the site, necrotic center with granulation 
tissue
and mild purulence, indurated but no fluctuance or crepitus;
ulcer on the dorsum of the foot is stage I with no significant
skin breakdown, mild surrounding erythema; ulcer on the plantar
surface of the foot is full-thickness foul-smelling wound with
purulence and erythema, indurated but no fluctuance or crepitus.
NEUROLOGIC: AOx3.

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: Sitting up in chair, in NAD.
HEENT: NCAT, MMM. No erythema or visible discharge of the
external canal of the L ear, tympanic membrane visualized with
?seroma and mild effusion, no pain during otic exam.
NECK: JVP difficult to assess.
CARDIAC: RRR, S1, S2, no murmurs/rubs/gallops.
LUNGS: Decreased breath sounds diffusely, stably decreased at 
the
bases L>R, otherwise CTAB, no wheezes, rhonchi, or rales
appreciated. Comfortable on room air.
ABDOMEN: Soft, nondistended, nontender.
EXTREMITIES: Area of swelling on the R posterior forearm, 
marked,
no TTP, no erythema or discharge. 1+ pitting edema of the ___
bilaterally, R>L. RLE dressed and in boot, intact light touch of
the toes. Amputation site of first and second toes of the LLE
c/d/i, no TTP.
SKIN: 3 ulcers of the RLE: heel ulcer is full-thickness with
erythema around the site, eschar in center with surrounding
granulation tissue and mild purulence, indurated but no
fluctuance or crepitus; ulcer on the dorsum of the foot is stage
I with no significant skin breakdown, mild surrounding erythema;
ulcer on the plantar surface of the foot is full-thickness, pink
granulation tissue, surrounding erythema, indurated but no
fluctuance or crepitus. Ulcers appear to be improved compared to
admission.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:54AM BLOOD WBC-6.3 RBC-3.90* Hgb-10.8* Hct-31.8* 
MCV-82 MCH-27.7 MCHC-34.0 RDW-15.4 RDWSD-45.1 Plt ___
___ 10:54AM BLOOD Plt ___
___ 10:54AM BLOOD Glucose-176* UreaN-44* Creat-1.9* Na-141 
K-5.0 Cl-103 HCO3-24 AnGap-14
___ 10:54AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.1
___ 05:40AM BLOOD %HbA1c-9.2* eAG-217*
___ 10:54AM BLOOD CRP-47.1*
___ 11:05AM BLOOD Lactate-2.1*
___ 05:57AM BLOOD Lactate-1.3

DISCHARGE LABS:
===============
___ 07:11AM BLOOD WBC-3.5* RBC-3.41* Hgb-9.8* Hct-28.1* 
MCV-82 MCH-28.7 MCHC-34.9 RDW-16.4* RDWSD-47.3* Plt Ct-83*
___ 07:11AM BLOOD Plt Ct-83*
___ 07:11AM BLOOD UreaN-30* Creat-1.5* Na-142 K-5.2 Cl-108 
HCO3-24 AnGap-10

STUDIES:
========
___ foot XR:
IMPRESSION: 
1. Soft tissue ulceration within the plantar soft tissues at the 
level of the MTP joint and posterior heel without evidence for 
osteomyelitis or soft tissue gas. Please note that MRI with 
contrast is more sensitive for detection of osteomyelitis. 
2. Charcot arthropathy of the midfoot, as seen previously. 

___ non-invasive arterial studies:
IMPRESSION:  
Right: Noncompressible right DP, with significantly abnormal 
TBI. Doppler 
waveforms and pulse volume recordings suggest significant 
arterial obstructive disease disease below the ankle. 
Left: elevated ABI suggestive of arterial calcification artifact 
with normal to mildly abnormal Doppler pulse volume recordings. 
Compared to ___, findings are overall similar. 

___ foot MRI:
IMPRESSION: 
1. Soft tissue ulceration and edema is identified overlying the 
plantar aspect of the first metatarsal head and posterior 
calcaneus without evidence of osteomyelitis.  No abscess. 

___ RLE angiogram:
Widely patent aorta and iliacs to common femorals bilaterally, 
left leg nort imaged below. Patent Right SFA/ Profunda to TPT, 
100% ___/ Peroneal, patent AT with 90% lesion single vessel to 
foot with filling of DP at ankle and diffuse disease of plantar 
/ tarsal arches at foot. Successful PTA of proximal / Mid Right 
AT with 3.0 x 20 mm balloon and stent with 2.50 x 20 mm promus 
Premier.

Recommendations
_x0095_ ASA 81mg per day
_x0095_ Plavix 75mg/day

___ renal ultrasound
IMPRESSION: 
1. No hydronephrosis. 
2. Incidental echogenic liver consistent with steatosis. Other 
forms of liver disease and more advanced liver disease including 
steatohepatitis or 
significant hepatic fibrosis/cirrhosis cannot be excluded on 
this study. 

___ RUE ultrasound
IMPRESSION:  
No drainable fluid collection, including no evidence of abscess 
or hematoma underlying the superficial tissues of the dorsal 
aspect of the right forearm, distal to the elbow. 
 
Brief Hospital Course:
___ with history of CAD status post CABG (___), HFpEF (LVEF 
>55% in ___, HTN, insulin-dependent T2DM complicated by 
neuropathy and nephropathy/CKD, OSA, PAD, and recent admission 
for MSSA bacteremia and LLE osteomyelitis who presents from 
___ clinic with worsening of RLE diabetic foot infection. 
He was treated with antibiotics and underwent RLE angiogram with 
balloon angioplasty and placement of drug-eluting stent in the 
right anterior tibial artery. His hospital course was 
complicated by ___ thought to be contrast-induced nephropathy.

ACUTE ISSUES
============
#Diabetic foot infection:
#Peripheral arterial disease s/p POBA and DES to anterior tibial 
artery:
Patient has a history of multiple chronic diabetic ulcers on his 
right foot. He presented from ___ clinic after his 
outpatient podiatrist noted clinical worsening of the ulcers, 
concerning for infection. On admission, patient's lactate was 
elevated, but he was afebrile and hemodynamically stable (and 
remained so throughout his hospital course); two of his lesions 
were purulent without crepitus. XR and MRI of the right foot did 
not demonstrate evidence of osteomyelitis. He was treated with 
antibiotics for a planned 14-day total course; per patient 
report, he has a history of MRSA infection of the left foot, so 
he was covered for MRSA. He was discharged on doxycycline 100mg 
q12h and Augmentin 500mg q12h (renally-dosed, day 1: ___, 
planned end ___. Patient was also evaluated for peripheral 
artery disease given the chronic, non-healing nature of his foot 
wounds. A non-invasive arterial study of his lower extremities 
showed bilateral tibial artery disease, and he underwent right 
lower extremity angiogram status post POBA and DES x1 to the 
mid-segment of the anterior tibial artery by Dr. ___. He 
was started on ASA 81mg daily and Plavix 75mg daily with 
recommendations to continue DAPT for 12 months. Patient was 
regularly seen by Podiatry while in-house for dressing changes 
and Santyl debridement.

#Acute kidney injury on CKD
Patient presented with ___ (Cr 1.9) on admission from a 
baseline of ~1.1-1.4. His kidney function improved with 
initiation of antibiotics. However, after RLE angiogram, he 
developed recurrent ___ with peak Cr of 2.1, thought to be 
contrast-induced nephropathy in the setting of receiving 160 mL 
of contrast +/- overdiuresis with IV Lasix due to subjective 
dyspnea thought secondary to volume overload. He was switched 
from PO Bactrim to PO doxycycline in the event that the Cr 
increase was induced by Bactrim (although no evidence of 
eosinophilia or WBC casts on spun urine to raise concern for 
AIN). Renal ultrasound showed no hydronephrosis. His Cr was 
downtrending and near-baseline by the time of discharge. His WT 
had remained stable off diuretic as well, with only mild ___ 
edema. NOTE: patient's diuretics (home furosemide and HCTZ) were 
held in the setting of this ___. He can restart furosemide 40mg 
every other day and HCTZ 50mg daily once his Cr stabilizes. His 
home valsartan 320mg daily was also initially held for his ___ 
but was restarted on discharge for HTN iso CKD and DM; please 
continue to monitor his kidney function.

#HTN
Patient's blood pressures were noted to be in the 160's 
systolics in the setting of holding home furosemide and HCTZ 
given his ___. He was continued on home amlodipine 10mg daily 
and isosorbide mononitrate 90mg daily. His home valsartan 320mg 
daily was initially held for infection and ___ but restarted on 
discharge. Please continue to monitor his blood pressures. He 
can restart his home diuretics once his Cr normalizes (as above) 
and as dictated by high BP trends.

#Right posterior forearm swelling
Patient noted a blister-like area of swelling on his posterior 
forearm without erythema, TTP, or purulence, thought to be 
induced by pressure on the arm. An ultrasound was performed and 
demonstrated no fluid collection or abscess. Please continue to 
monitor the area as it is adjacent to a healed incision, and 
patient is at risk for infections.

#Otorrhea
Pt reported clear, painless ear drainage on the day of 
discharge. On exam, some e/o middle ear effusion w/o erythema, 
visible drainage debris or perforation. Possibly may be 
secondary to resolved otits media (though no antecedent pain). 
Less likely chronic suppurative otitis media in absence of 
debris. Recommended continued monitoring clinically as pt had 
already being treated with more than adequate treatment as a 
typical duration of treatment for a mild OM infection is ___ 
days. 

CHRONIC ISSUES:
===============
#T2DM c/b neuropathy and nephropathy
Last A1c 7.8% in ___, 9.2% on ___. He is followed in ___ 
___ by Dr. ___. Patient reports a 70-lb weight gain over 
the past ___ years due to immobility and insulin use. In-house, he 
was continued on his home insulin and sliding scale regimen. 
Note that patient may benefit from initiating an oral medication 
such as metformin, Victoza, or Jardiance with proven mortality 
and weight loss benefits. 

#___
Patient did not show signs of volume overload on admission. He 
developed dyspnea in the setting of receiving IV fluids for RLE 
angiogram so was diuresed once with IV Lasix. Due to resulting 
___ (likely CIN +/- overdiuresis), his home diuretics were held. 
As above, please restart home furosemide and HCTZ once Cr 
normalizes and as needed for dyspnea. He was continued on home 
metoprolol succinate 200mg daily.

#CAD
- Continued home metoprolol, aspirin, atorvastatin, and 
isosorbide mononitrate

#Thrombocytopenia
#Normocytic anemia
Likely in the setting of chronic inflammation ___ non-healing 
wounds. Remained stable throughout his hospital course.

#Urinary retention
- discharged on home alfuzosin

#OSA
- continued CPAP (brought from home)

#GERD
- continued home ranitidne

WOUND CARE:
===========
- Please continue to perform daily dressings on right foot 
wounds: apply Santyl every other day to ulcers, followed by dry 
sterile dressing consisting of 4x4 gauze, Kerlix, and ACE 
bandage; can perform dry dressing changes every day
- Please maintain multipodus boot on right foot

TRANSITIONAL ISSUES:
====================
- Continue antibiotics (doxycycline and Augmentin) for a 14-day 
course through ___
- Continue dual antiplatelet therapy with ASA and Plavix for 12 
months
- Please restart patient's home furosemide 40mg every other day 
and HCTZ 50mg daily once his Cr normalizes and pending symptoms
- Please continue to monitor the patient's weights and kidney 
function with a electrolyte check in 1 week
- Please consider initiating an oral diabetic medication, such 
as metformin, Victoza, or Jardiance with proven mortality and 
weight loss benefits, given A1c >9%
- If ear drainage worsens OR does not improve within 12 weeks 
time, consider ENT referral

MEDICATION ISSUES:
==================
HOLD HCTZ
HOLD furosemide
CONTINUE doxycycline 100mg q12h and Augmentin 500mg q12h through 
___
START clopidogrel 75mg daily

Cr at discharge: 1.5
Weight at discharge: 142.5 kg

Contact: ___ (daughter), ___
Full code

> 30 minutes were spent on the day of discharge with discharge 
planning and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Ascorbic Acid ___ mg PO DAILY 
6. Artificial Tears ___ DROP BOTH EYES Q4H 
7. Furosemide 40 mg PO EVERY OTHER DAY 
8. Gabapentin 600 mg PO BID 
9. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
10. Metoprolol Succinate XL 200 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Ranitidine 150 mg PO DAILY 
14. TraZODone 50 mg PO QHS 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Hydrochlorothiazide 50 mg PO DAILY 
17. LORazepam 1 mg PO DAILY:PRN anxiety 
18. alfuzosin 10 mg oral DAILY 
19. Ferrous Sulfate 65 mg PO DAILY 
20. Valsartan 320 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
2.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
3.  Collagenase Ointment 1 Appl TP DAILY  
4.  Doxycycline Hyclate 100 mg PO Q12H  
5.  Glargine 50 Units Breakfast
Glargine 50 Units Lunch
Glargine 50 Units Dinner
Insulin SC Sliding Scale using REG Insulin 
6.  Probiotic Blend (___) 2 billion 
cell-50 mg oral DAILY  
7.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
8.  alfuzosin 10 mg oral DAILY  
9.  amLODIPine 10 mg PO DAILY  
10.  Artificial Tears ___ DROP BOTH EYES Q4H  
11.  Ascorbic Acid ___ mg PO DAILY  
12.  Aspirin 81 mg PO DAILY  
13.  Atorvastatin 40 mg PO QPM  
14.  Ferrous Sulfate 65 mg PO DAILY  
15.  Gabapentin 600 mg PO BID  
16.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
17.  LORazepam 1 mg PO DAILY:PRN anxiety  
18.  Metoprolol Succinate XL 200 mg PO DAILY  
19.  Multivitamins W/minerals 1 TAB PO DAILY  
20.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
21.  Ranitidine 150 mg PO DAILY  
22.  TraZODone 50 mg PO QHS  
23.  Valsartan 320 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  
25. HELD- Furosemide 40 mg PO EVERY OTHER DAY  This medication 
was held. Do not restart Furosemide until your doctor tells you 
to
26. HELD- Hydrochlorothiazide 50 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until your doctor 
tells you to

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSES
==================
#Diabetic foot infection

SECONDARY DIAGNOSES
===================
___ on CKD
#T2DM
#HFpEF
#CAD
#HTN
#Thrombocytopenia
#OSA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure to care for you at ___ 
___.

WHY WERE YOU IN THE HOSPITAL?
Your podiatrist referred you to the hospital because he was 
concerned that your foot ulcer was infected.

WHAT DID WE DO IN THE HOSPITAL?
- We gave you antibiotics to treat a possible infection of your 
foot ulcer.
- You underwent a procedure called an angiogram of your right 
leg, where the arteries of the leg are evaluated for blockages. 
A blockage in one of the arteries was opened with a stent.

WHAT SHOULD YOU DO WHEN YOU LEAVE?
- Please continue your antibiotics (last day: ___.
- Please continue taking your other medications, especially the 
aspirin and Plavix (clopidogrel) that help keep the stent in 
your right leg open.
- Continue working with physical therapy to improve your 
mobility.

- Weigh yourself every morning, and call your doctor if your 
weight goes up by more than 3 lbs in one day or 7 lbs in 3 days.

We wish you all the best!

- Your ___ Care Team
 
Followup Instructions:
___